US07935815B2
Synthesis of 2,6-difluoro-3-aminopyridine
2,6-Difluoro-3-nitropyridine (3.84 g) was dissolved in ethanol (42 ml). A solution of iron powder (4.03 g) and ammonium chloride (2.57 g) in water (14 ml) was added, and the reaction solution was heated and stirred at 80° C. for one hour. After leaving to cool, the reaction solution was filtered through celite. Ethyl acetate and water were added and the organic layer was separated. The resulting organic layer was washed with brine and then dried over anhydrous sodium sulfate. The drying agent was separated by filtration, and then the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (2.06 g). The property values of the compound are as follows.

reactant | 2,6-Difluoro-3-nitropyridine | 3.84 g | FC1=NC(=CC=C1[N+](=O)[O-])F | C5H2F2N2O2
reactant | ammonium chloride | 2.57 g | [Cl-].[NH4+]
solvent | ethanol | 42 ml | C(C)O | C2H6O
solvent | water | 14 ml | O | H2O
catalyst | iron | 4.03 g | [Fe] | Fe
product | 2,6-difluoro-3-aminopyridine | 2.06 g | FC1=NC(=CC=C1N)F | C5H4F2N2
